US06339099B1
Preparation of 3-(3-cyano-4-fluorophenyl)-5-(methylsulfonylaminomethyl)-5-(carbomethoxy)isoxazoline
To a solution of 3-(3-cyano-4-fluorophenyl)-5-(aminomethyl)-5-(carbomethoxy)isoxazoline hydrochloride salt (1.15 g) in CH2Cl2 (50 mL) was added triethylamine (1.27 mL) and methanesulfonyl chloride (0.31 mL). The mixture was stirred at RT under N2 for 1 h. The solvent was diluted with CH2Cl2 and washed with water, IN aqueous HCl, and saturated aqueous NaHCO3. It was dried over MgSO4 and concentrated to a yellow solid (1.13 g). 1H NMR (CDCl3) δ7.92 (m, 2H), 7.30 (t, 1H), 4.82 (t, 1H), 3.84 (s, 3H), 3.76-3.60 (m, 4H), 3.03 (s, 3H) ppm; ESI mass spectrum z (rel. intensity) 377.9 (M+H, 100).

reactant | 3-(3-cyano-4-fluorophenyl)-5-(aminomethyl)-5-(carbomethoxy)isoxazoline hydrochloride salt | 1.15 g | Cl.C(#N)C=1C=C(C=CC1F)C1=NOC(C1)(C(=O)OC)CN
reactant | triethylamine | 1.27 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.31 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-cyano-4-fluorophenyl)-5-(methylsulfonylaminomethyl)-5-(carbomethoxy)isoxazoline | C(#N)C=1C=C(C=CC1F)C1=NOC(C1)(C(=O)OC)CNS(=O)(=O)C | C14H14FN3O5S
